US07351857B2
To a suspension of N-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide (0.439 g; 2.1 mmol) in DMF (6 mL) is added Cs2CO3 (1.7 g; 5.2 mmol) and tert-butyl 2-bromoisobutyrate (2.1 mL; 9.4 mmol) and the reaction mixture was stirred at 100° C. for 18 h. The reaction was cooled to RT, diluted with EtOAc, washed with H2O, brine, dried over Na2SO4, filtered, and the solvent removed under reduced pressure to provide a crude oil, which was purified by flash chromatography (SiO2) eluting with a hexanes-EtOAc gradient to afford 0.51 g (69%) of 2-(6-acetylamino-5,6,7,8-tetrahydronaphthalen-2-yloxy)-2-methylpropionic acid tert-butyl ester as an oil.

reactant | N-(6-hydroxy-1,2,3,4-tetrahydronaphthalen-2-yl)acetamide | 2.1 mmol, 0.439 g | OC=1C=C2CCC(CC2=CC1)NC(C)=O | C12H15NO2
reactant | Cs2CO3 | 5.2 mmol, 1.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | tert-butyl 2-bromoisobutyrate | 9.4 mmol, 2.1 mL | BrC(C(=O)OC(C)(C)C)(C)C | C8H15BrO2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(6-acetylamino-5,6,7,8-tetrahydronaphthalen-2-yloxy)-2-methylpropionic acid tert-butyl ester | 0.51 g, 69% | C(C)(C)(C)OC(C(C)(C)OC1=CC=2CCC(CC2C=C1)NC(C)=O)=O | C20H29NO4
